US07312214B2
Part A. 6-{4-[1-(tert-Butoxycarbonyl-methyl-amino)-cyclopropyl]-phenyl}-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester (0.59 g, 1.79 mmol) was stirred in EtOH (15 mL) and 1N NaOH (3 mL) at rt for 1 h. After evaporation, the mixture was acidified with citric acid. The mixture was extracted with EtOAc (2×), washed with H2O and brine, dried over MgSO4, filtered, and concentrated to dryness in vacuo. This acid underwent a series of reactions similar to those used in Part E of Example 1 to afford (1-{4-[3-formyl-1-(4-methoxy-phenyl)-7-oxo-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-cyclopropyl)-methyl-carbamic acid tert-butyl ester (yield: 99%). LC/MS (ESI+) 461.6 (M+H−t-Bu)+, tR=1.2.97 min (10–90% CH3CN/H2O in a 4-min run).

reactant | 6-{4-[1-(tert-Butoxycarbonyl-methyl-amino)-cyclopropyl]-phenyl}-1-(4-methoxy-phenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid ethyl ester | 1.79 mmol, 0.59 g | C(C)OC(=O)C1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C2(CC2)N(C)C(=O)OC(C)(C)C)=O)C2=CC=C(C=C2)OC | C31H36N4O6
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | (1-{4-[3-formyl-1-(4-methoxy-phenyl)-7-oxo-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-phenyl}-cyclopropyl)-methyl-carbamic acid tert-butyl ester | yield: 99% | C(C)(C)(C)OC(N(C)C1(CC1)C1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C=O)=O)=O | C29H32N4O5
